US06730788B1
2-[(Cyclohexyl)]-9-[(1-hydroxycyclohexyl)]-1,10-phenanthroline
By following General Procedure I, cyclohexanone (0.094 g, 0.953 mmol) was added to 2-(cyclohexyl)-1,10-phenanthroline, prepared as described by Example 15, (0.100 g, 0.381 mmol) and 0.1 M SmI2 (8.38 mL, 0.838 mmol) yielding 0.083 g (60% yield) of the title compound as a colorless oil: 1H NMR (300 MHz, CDCl3) δ8.24 and 8.14 (two d, J=8.40 Hz, Hp3 and Hp9), 7.76 and 7.70 (two d, J=8.80 Hz, Hp5 and Hp6), 7.66 and 7.52 (two d, J=8.40 Hz, Hp4 and Hp7), 3.06 (tt, J=11.85, 3.30 Hz, (CH2)5CH (phenan)), 2.18-1.74 (m, 10H), 1.52-1.33 (m, 10H); 13C NMR (75 MHz) δ166.98, 165.25, 144.88, 143.44, 137.16, 136.01, 127.49, 127.28, 126.21, 124.85, 121.47, 118.65, 73.16, 47.24, 36.75, 32.81, 26.64, 26.12, 25.75, 22.71; IR (CHCl3) 3338 (OH), 3042 (C—H Ar), 2927 (CH), 852 (C—H Ar) cm−1; HRMS m/e Calcd for C24H29N2O (MH+): 361.2280, found, 361.2272.

reactant | cyclohexanone | 0.953 mmol, 0.094 g | C1(CCCCC1)=O | C6H10O
reactant | 2-(cyclohexyl)-1,10-phenanthroline | C1(CCCCC1)C1=NC2=C3N=CC=CC3=CC=C2C=C1 | C18H18N2
product | 2-[(Cyclohexyl)]-9-[(1-hydroxycyclohexyl)]-1,10-phenanthroline | 0.083 g, 60% yield | C1(CCCCC1)C1=NC2=C3N=C(C=CC3=CC=C2C=C1)C1(CCCCC1)O | C24H28N2O
